US20010036946A1
a) 1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinone-(1,1-dimethylethoxycarbonyl)hydrazone
A mixture of 16.0 g (0.05 mol) of 1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinone, 7.25 g (0.055 mol) of tert. butyl hydrazinoformate and 250 ml of ethanol was refluxed for 1 hour. The solvent was distilled off in vacuo, the oily residue remaining was triturated with diethylether. The crystalline precipitate thus formed was suction filtered and washed with a little diethylether. After the product had been dried in vacuo 21.7 g (99.7% of theory) of colourless crystals were obtained, m.p. 156-158° C. (decomposition).

reactant | 1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinone | 0.05 mol, 16.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCC(CC1)=O | C20H19NO3
reactant | tert. butyl hydrazinoformate | 0.055 mol, 7.25 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinone-(1,1-dimethylethoxycarbonyl)hydrazone | CC(C)(OC(=O)NN=C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C | C25H29N3O4
